US09428512B2
2-Butyl-7-(5-(4-isopropylpiperazin-1-yl)pentyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine
5-((Benzyloxy)methyl)-2-butyl-7-(5-(4-isopropylpiperazin-1-yl)pent-1-yn-1-yl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine (77 mg, 0.153 mmol) in ethanol (20 mL) was passed through the H-cube (settings: 45° C., full hydrogen, 1 mL/min flow rate and 10% palladium on carbon CatCart30 as the catalyst). A new 10% palladium on carbon CatCart30 cartridge was inserted into the H-cube and the solution was again passed through the H-cube (settings: 45° C., full hydrogen, 1 mL/min flow rate). The solution was evaporated in-vacuo to yield a white solid. The solid was dissolved in MeOH:DMSO (1:1) (1 mL) and purified by MDAP (Method B). the appropriate fraction was evaporated in-vacuo to yield the title compound as a white solid (21 mg).

reactant | 5-((Benzyloxy)methyl)-2-butyl-7-(5-(4-isopropylpiperazin-1-yl)pent-1-yn-1-yl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 0.153 mmol, 77 mg | C(C1=CC=CC=C1)OCN1C=C(C=2N=C(N=C(C21)N)CCCC)C#CCCCN2CCN(CC2)C(C)C | C30H42N6O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
solvent | MeOH DMSO | 1 mL | CO.CS(=O)C
product | 2-Butyl-7-(5-(4-isopropylpiperazin-1-yl)pentyl)-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 21 mg | C(CCC)C=1N=C(C2=C(N1)C(=CN2)CCCCCN2CCN(CC2)C(C)C)N | C22H38N6
